US07696215B2
To a solution of methyl 3-(6-formyl-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate (0.60 g) and titanium isopropoxide (1.10 ml) in methylene chloride (15 ml) was added morpholine (0.33 ml). The reaction was stirred at room temperature for 1 hour, then sodium triacetoxyborohydride (0.80 g) was added and stirred for a further 16 hours. The reaction mixture was diluted with water/methylene chloride (1:1) and filtered through diatomaceous earth (Celite®). The layers were separated, the aqueous layer extracted with methylene chloride. The combined organics were dried (magnesium sulphate) and concentrated to give a solid. The solid was purified by column chromatography on a silica column using initially methylene chloride and then a 19:1 mixture of methylene chloride and methanol as eluent to give methyl 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoate as a solid (0.62 g). NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 2.40 (m, 4H), 3.59 (m, 4H), 3.63 (s, 2H), 3.87 (s, 3H), 7.62 (d, 1H), 7.75 (d, 1H), 7.85 (m, 1H), 8.03 (m, 2H), 8.12 (d, 1H), 8.28 (s, 1H); Mass Spectrum: M+H+ 394.

reactant | methyl 3-(6-formyl-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | 0.60 g | C(=O)C=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C18H14N2O4
reactant | morpholine | 0.33 ml | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | water methylene chloride | O.C(Cl)Cl
catalyst | titanium isopropoxide | 1.10 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | methyl 4-methyl-3-[6-(morpholin-4-ylmethyl)-4-oxoquinazolin-3(4H)-yl]benzoate | 0.62 g | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)CN1CCOCC1 | C22H23N3O4
